US07393865B2
To a cooled (−78° C.) solution of [2-(2-dimethylamino-ethyl)-6-methyl-benzo[b]thiophen-3-yl]-pyridin-2-yl-methanone (0.444 g, 1.50 mmol) in anhydrous toluene (5 mL), MeLi (1 mL, 1.6 mmol, 1.6 M in ether) was added and the mixture was stirred while the temperature was kept <−60° C. After 2 hours, an additional aliquot of MeLi (0.2 mL, 0.32 mmol) was added and stirring was continued for another 2 hours. The reaction was quenched with a mixture of 1.3 mL 6N HCl and 2.6 mL MeOH while keeping the temperature <−45° C. The mixture was allowed to warm to room temperature and the organic phase was separated. The organic phase was extracted with 500 mL of 1N HCl. The combined aqueous phases were neutralized with 50% sodium hydroxide and extracted 3 times with ethyl acetate. The combined organic phases were dried over Na2SO4, filtered and concentrated. Silica gel column chromatography (dichloromethane/MeOH=97/3 up to 85/15) afforded 1-[2-(2-dimethylamino-ethyl)-6-methyl-benzo[b]thiophen-3-yl]-1-pyridin-2-yl-ethanol in quantitative yield.

reactant | [2-(2-dimethylamino-ethyl)-6-methyl-benzo[b]thiophen-3-yl]-pyridin-2-yl-methanone | 1.50 mmol, 0.444 g | CN(CCC1=C(C2=C(S1)C=C(C=C2)C)C(=O)C2=NC=CC=C2)C | C19H20N2OS
reactant | MeLi | 1.6 mmol, 1.6 M, 1 mL | [Li]C
reactant | MeLi | 0.32 mmol, 0.2 mL | [Li]C
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(2-dimethylamino-ethyl)-6-methyl-benzo[b]thiophen-3-yl]-1-pyridin-2-yl-ethanol | quantitative yield | CN(CCC1=C(C2=C(S1)C=C(C=C2)C)C(C)(O)C2=NC=CC=C2)C | C20H24N2OS
